US04113940
Zinc powder (3.0 g) was added under stirring at 5° C. to a solution of 2,2,2-trichloroethyl 2-methyl-7-[N-(1-cyclopropylethyoxy)carbonylphenylglycyl]amino-3-cephem-4-carboxylate (2.95 g) in a mixture of anhydrous dimethylformamido (12.5 ml) and acetic acid (3.75 ml), and the mixture was stirred for 1.5 hours. After the reaction, zinc powder was filtered off and washed with dimethylformamide (2 ml). The filtrate and the washings were combined, and the combined solution was extracted by pouring into a mixture of ethyl acetate (50 ml), ice-water (50 ml) and 10% hydrochloric acid (3 ml). The aqueous layer was further extracted with ethyl acetate (20 ml). The extract was combined, and then washed three times with water (20 ml) and once with a saturated sodium chloride aqueous solution and then dried over magnesium sulfate. After drying, the solvent was distilled off and the obtained residue was washed with ether and dried to give colorless crystals of 2-methyl-7-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]amino-3-cephem- 4-carboxylic acid (2.01 g), mp 168° to 169° C.

reactant | 2,2,2-trichloroethyl 2-methyl-7-[N-(1-cyclopropylethyoxy)carbonylphenylglycyl]amino-3-cephem-4-carboxylate | 2.95 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CN(C(=O)OC(C)C2CC2)C2=CC=CC=C2)=O)=O | C24H26Cl3N3O6S
catalyst | Zinc | 3.0 g | [Zn] | Zn
solvent | acetic acid | 3.75 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-7-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]amino-3-cephem- 4-carboxylic acid | 2.01 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CN(C(=O)OC(C)C2CC2)C2=CC=CC=C2)=O)=O | C22H25N3O6S
